US05854232
N-Adamantan-1-yl-2-hydroxymethyl-3-pyridin-4-yl-2-pyridin-4-ylmethyl-propionamide
To a well-stirred solution of N-adamantan-1-yl-2,2-bis-pyridin4-ylmethyl-malonamic acid methyl ester (14.92 g, 34 mmol) in methanol (175 ml), sodium borohydride (6.50 g, 172 mmol) was added portionwise over 1 hour (ambient temperature). After stirring at ambient temperature for 18 hours, the solvent was removed in vacuo, and the residue was extracted with aqueous sodium bicarbonate/chloroform (300 ml of each). The aqueous layer was then extracted three times with equal volumes of chloroform. The combined organic extracts were concentrated in vacuo to an oil (13.55 g). Flash chromatography of the entire sample (silica gel, 40 micron mesh; elution with methanol/chloroform=4:96 in volume) afforded the (free base) title compound as an oil (7.9 g).

reactant | N-adamantan-1-yl-2,2-bis-pyridin4-ylmethyl-malonamic acid methyl ester | 34 mmol, 14.92 g | COC(C(C(=O)NC12CC3CC(CC(C1)C3)C2)(CC2=CC=NC=C2)CC2=CC=NC=C2)=O | C26H31N3O3
reactant | sodium borohydride | 172 mmol, 6.50 g | [BH4-].[Na+]
solvent | methanol | 175 ml | CO | CH4O
product | N-Adamantan-1-yl-2-hydroxymethyl-3-pyridin-4-yl-2-pyridin-4-ylmethyl-propionamide | 7.9 g | C12(CC3CC(CC(C1)C3)C2)NC(C(CC2=CC=NC=C2)(CC2=CC=NC=C2)CO)=O | C25H31N3O2
